US06506770B1
4-Diethoxyphosphoryl-7-(2-nitrobenzenesulfonyl)-1,4,7-triazacyclotetradecane
To a stirred solution of 4-diethoxyphosphoryl-1,7-bis(2-nitrobenzenesulfonyl)-1,4,7-triazacyclotetradecane (1.32 g, 1.87 mmol) and K2CO3 (654 mg, 4.73 mmol) in DMF (11 mL) under nitrogen was added dropwise a solution of thiophenol (0.15 mL, 1.46 mmol) in DMF (8 mL) over 1 h. The mixture was stirred for an additional 3 h and then concentrated in vacuo. The residue was partitioned between CHCl3 (50 mL) and H2O (25 mL). The aqueous phase was separated and extracted with CHCl3 (3×20 mL) and the combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography on basic alumina (CHCl3 then 3% MeOH/CHCl3) to give the title compound as a yellow oil (178 mg, 23%): 1H NMR (CDCl3) δ1.31 (t, 6H, J=7.0 Hz), 1.40-1.67 (m, 10H), 2.65 (m, 2H), 2.78 (m, 2H), 3.12 (m, 2H), 3.26-3.37 (m, 4H), 3.48 (m, 2H), 3.97-4.09 (m, 4H), 7.61 (m, 1H), 7.68 (m, 2H), 8.06 (m, 1H).

reactant | 4-diethoxyphosphoryl-1,7-bis(2-nitrobenzenesulfonyl)-1,4,7-triazacyclotetradecane | 1.87 mmol, 1.32 g | C(C)OP(=O)(OCC)N1CCN(CCCCCCCN(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C27H40N5O11PS2
reactant | K2CO3 | 4.73 mmol, 654 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | thiophenol | 1.46 mmol, 0.15 mL | C1(=CC=CC=C1)S | C6H6S
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-Diethoxyphosphoryl-7-(2-nitrobenzenesulfonyl)-1,4,7-triazacyclotetradecane | 178 mg, 23% | C(C)OP(=O)(OCC)N1CCNCCCCCCCN(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C21H37N4O7PS
